US09056874B2
(±)-(7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)methanol
A suspension of (±)-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole-5-carbaldehyde (221 mg, 0.52 mmol) and NaBH4 (98 mg, 2.6 mmol) in EtOH (5 mL) was stirred at 0° C. for 0.5 h. The reaction mixture was diluted with CH2Cl2. The mixture was washed with H2O, half satd. KHSO4 aqueous solution, H2O, and brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave the title compound, which was used in the next reaction without any further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.83 (d, J=3.79 Hz, 1H), 7.60 (d, J=8.34 Hz, 2H), 7.38 (d, J=8.34 Hz, 2H), 7.14 (s, 1H), 6.98 (d, J=3.79 Hz, 1H), 5.01 (t, J=5.56 Hz, 1H), 4.87 (d, J=11.37 Hz, 1H), 4.67 (d, J=11.37 Hz, 1H), 4.55-4.63 (m, 3H), 3.73-3.85 (m, 1H), 3.37-3.51 (m, 1H), 2.34 (s, 3H), 2.08 (s, 3H), 1.51-1.71 (m, 2H), 1.30-1.51 (m, 4H).

reactant | (±)-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole-5-carbaldehyde | 0.52 mmol, 221 mg | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)C=O | C23H25NO5S
reactant | NaBH4 | 2.6 mmol, 98 mg | [BH4-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-(7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)methanol | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)CO | C23H27NO5S
